US07465815B2
N-(3-Hydroxy-2,2,6,7-tetramethyl-3-(2-phenylethyl)-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
A solution of 2-chloroethylbenzene (648 mg, 4.6 mmol) in THF (5 mL) was added dropwise under an argon atmosphere to a mixture of magnesium (112 mg, 4.6 mmol) and a catalytic amount of iodine, and the mixture was stirred for 30 minutes. To the reaction solution was added dropwise a solution of 3,3-dimethyl-N-(2,2,6,7-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide (300 mg, 0.98 mmol) obtained in Reference Example 65 in THF (3 mL), and the mixture was stirred at room temperature for 1 hour. The reaction solution was added to ice and the product was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:3) and recrystallized from ethyl acetate-hexane to obtain 201 mg (yield: 51%) of the title compound. Melting point: 99-100° C.

reactant | 2-chloroethylbenzene | 4.6 mmol, 648 mg | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | magnesium | 4.6 mmol, 112 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3,3-dimethyl-N-(2,2,6,7-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide | 0.98 mmol, 300 mg | CC(CC(=O)NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C)(C)C | C18H25NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(3-Hydroxy-2,2,6,7-tetramethyl-3-(2-phenylethyl)-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | 201 mg, yield: 51% | OC1(C(OC2=C1C=C(C(=C2C)C)NC(CC(C)(C)C)=O)(C)C)CCC2=CC=CC=C2 | C26H35NO3
